US09403807B2
Step F: tert-butyl 1-[2-(4-chlorophenyl)-1-oxobutan-2-yl]-1H-indazol-4-ylcarbamate
To a solution of Dess-Martin periodinane (8.12 g, 19.15 mmol) in DCM (90 mL) at 0° C. was added a solution of tert-butyl 1-[2-(4-chlorophenyl)-1-hydroxybutan-2-yl]-1H-indazol-4-ylcarbamate (3.18 g, 7.67 mmol) in DCM (20 mL). The mixture was allowed to stir at rt for 2 hours. Then it was filtered and the filtrate was concentrated in vacuo to afford the crude product. The product was purified via column chromatography (0-10% EtOAc/hexanes) to provide the desired product.

reactant | Dess-Martin periodinane | 19.15 mmol, 8.12 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 1-[2-(4-chlorophenyl)-1-hydroxybutan-2-yl]-1H-indazol-4-ylcarbamate | 7.67 mmol, 3.18 g | ClC1=CC=C(C=C1)C(CO)(CC)N1N=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C22H26ClN3O3
solvent | DCM | 90 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-[2-(4-chlorophenyl)-1-oxobutan-2-yl]-1H-indazol-4-ylcarbamate | ClC1=CC=C(C=C1)C(C=O)(CC)N1N=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C22H24ClN3O3
